US08445674B2
B) (S)-4-((S)-3-Carboxy-2-hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester
In analogy to the procedure described in Example 23B, (S)-4-((S)-2-hydroxy-3-methoxycarbonyl-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester and 1 M aq. lithium hydroxide solution gave after extraction with EtOAc and precipitation (dichloromethane/n-pentane) the titled compound in 81% yield as light yellow waxy solid. MS: 351.15 (MH+).

reactant | (S)-4-((S)-2-hydroxy-3-methoxycarbonyl-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)C[C@H](CC(=O)OC)O)=O)C | C18H24N2O6
reactant | lithium hydroxide | 1 M | [OH-].[Li+]
product | (S)-4-((S)-3-Carboxy-2-hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | 81% yield | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)C[C@H](CC(=O)O)O)=O)C | C17H22N2O6
